US06956050B2
STEP 1. 2-naphthylmethyl propanimidothioate hydrobromide
A mixture of propiothioamide (892 mg, 10 mmol) and 2-bromophenylnaphthalene (2.21 g, 10 mmol) in chloroform (80 mL) was heated at 80° C. for 2 h. After cooling, the mixture was poured into diethyl ether (100 mL) and cooled at 0° C. for 1 h. The resulting precipitate was corrected by filtration and dried under reduced pressure to give 2.85 g (92%) of the title compound as a colorless powder. MS (ESI) m/z 230 [M+H]+.

reactant | propiothioamide | 10 mmol, 892 mg | C(CC)(N)=S | C3H7NS
reactant | 2-bromophenylnaphthalene | 10 mmol, 2.21 g | BrC1=C(C=CC=C1)C1=CC=CC2=CC=CC=C12 | C16H11Br
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-naphthylmethyl propanimidothioate hydrobromide | 2.85 g, 92% | Br.C(CC)(=N)SCC1=CC2=CC=CC=C2C=C1 | InChI=1S/C14H15NS.BrH/c1-2-14(15)16-10-11-7-8-12-5-3-4-6-13(12)9-11;/h3-9,15H,2,10H2,1H3;1H
